US08217066B2
Step 3: 1-{4′-[3-Methyl-4-(2-oxo-4-phenyl-butyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester:
Prepared according to the procedure described in Example 3, Step 5, using 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-4-phenyl-butan-2-one and 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester.

reactant | 1-[5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-4-phenyl-butan-2-one | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)CC(CCC1=CC=CC=C1)=O | C20H18BrNO2
reactant | 1-[4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C18H25BO4
product | 1-{4′-[3-Methyl-4-(2-oxo-4-phenyl-butyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CC(CCC1=CC=CC=C1)=O | C32H31NO4
